US05519034
A solution of methyl iodide (1.9 g) in acetone (20 ml) was added dropwise to a stirred suspension of 1-[1-(2,4-dichlorophenyl)cyclobutyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline (4 g prepared as described in Example RC9) and anhydrous potassium carbonate (3.1 g) in acetone (70 ml). The mixture was stirred at ambient temperature for 90 minutes and the solvent removed by evaporation. Water was added and the mixture extracted with ether. The ether layer yielded 1-[1-(2,4-dichlorophenyl)cyclobutyl]-6,7-dimethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline as an oil. A portion of this oil was characterised by conversion into its 1.5 oxalate salt, m.p. 125°-132° C.

reactant | methyl iodide | 1.9 g | CI | CH3I
reactant | 1-[1-(2,4-dichlorophenyl)cyclobutyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 4 g | ClC1=C(C=CC(=C1)Cl)C1(CCC1)C1NCCC2=CC(=C(C=C12)OC)OC | C21H23Cl2NO2
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 1-[1-(2,4-dichlorophenyl)cyclobutyl]-6,7-dimethoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | ClC1=C(C=CC(=C1)Cl)C1(CCC1)C1N(CCC2=CC(=C(C=C12)OC)OC)C | C22H25Cl2NO2
